US07022825B2
D. (±)-N-[(2R*,3S*)-(2-methyl-3-hydroxy-4-pentenoyl)]-2-benzoxazolone
This compound was prepared according to the procedure of paragraph C, by reaction of N-propionyl-2-benzoxazolone with acrolein. 1H-NMR (CDCl3, 400 MHz) δ 8.06 (m, 1 H), 7.27–7.20 (m, 2 H), 5.91 (ddd, J=17,10, 5 Hz). 5.37 (dt, J=1, 17 Hz, 1 H), 5.24 (dt, J=1, 10 Hz, 1 H), 4.60 (m, 1 H), 4.06 (dq, J=3, 6 Hz, 1 H), 2.62 (d, J=4 Hz, 1 H), 1.30 (d, 6 Hz, 3 H). 13C-NMR (CDCl3, 100 MHz) δ 175.4, 151.1, 142.2, 137.2, 127.7, 125.5, 124.9, 116.6, 116.2, 109.9, 72.7, 44.0, 10.7.

reactant | N-propionyl-2-benzoxazolone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | acrolein | C(=O)C=C | C3H4O
product | (±)-N-[(2R*,3S*)-(2-methyl-3-hydroxy-4-pentenoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](C=C)O | C13H13NO4
